US07745438B2
(1S,2S)-2-Amino-3-(3,5-difluorophenyl)-1-[(3R,5S,6R)-6-(2,2-dimethylpropoxy)-5-methylmorpholin-3-yl]-propan-1-ol
Add 20% palladium hydroxide on carbon (679 mg) to a solution of dibenzyl-{(1S,2R)-2-benzyloxy-1-(3,5-difluorobenzyl)-2-[(3R,5S,6R)-6-(2,2-dimethylpropoxy)-5-methylmorpholin-3-yl]-ethyl}-amine (284 mg, 0.442 mmol) in absolute ethanol (5 mL) and stir under 1 atmosphere of hydrogen gas at room temperature for 18 hours. Filter through a pad of Celite®, wash thoroughly with ethanol and concentrate to give the desired compound as a glass (162 mg, 98%).

reactant | dibenzyl-{(1S,2R)-2-benzyloxy-1-(3,5-difluorobenzyl)-2-[(3R,5S,6R)-6-(2,2-dimethylpropoxy)-5-methylmorpholin-3-yl]-ethyl}-amine | 0.442 mmol, 284 mg | C(C1=CC=CC=C1)N([C@H]([C@@H]([C@@H]1N[C@H]([C@@H](OC1)OCC(C)(C)C)C)OCC1=CC=CC=C1)CC1=CC(=CC(=C1)F)F)CC1=CC=CC=C1 | C40H48F2N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 679 mg | [OH-].[OH-].[Pd+2]
product | (1S,2S)-2-Amino-3-(3,5-difluorophenyl)-1-[(3R,5S,6R)-6-(2,2-dimethylpropoxy)-5-methylmorpholin-3-yl]-propan-1-ol | 162 mg, 98% | N[C@H]([C@H](O)[C@@H]1N[C@H]([C@@H](OC1)OCC(C)(C)C)C)CC1=CC(=CC(=C1)F)F | C19H30F2N2O3
